US05502044
6α-and 6β-bromo-4-acetamino-androsta-1,4-diene-3,17-dione (IV, R1 =H).
To a solution of 4-acetamino-androsta-1,4-diene-3,17-dione (3.404 g, 10 mmol) in CCl4 (250 ml) were added N-bromosuccinimide (2.850 g, 16 mmol) and benzoyl peroxide (0.121 g, 0.5 mmol). The solution was heated under reflux for 1 h and then filtered to remove any insoluble material. The filtrate was washed with 5% NaHCO3 solution and with water and the organic phase evaporated to dryness under reduced pressure. The residue was triturated with a small amount of 95% EtOH to give mixture of crude 6α- and 6α-bromoacetamino-androsta-1,4-diene-3,17-dione in 90% yield (3.780 g), which was used in the following fluorination reaction without further purification.

reactant | 4-acetamino-androsta-1,4-diene-3,17-dione | 10 mmol, 3.404 g | N(C(=O)C)C1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O | C21H27NO3
reactant | N-bromosuccinimide | 16 mmol, 2.850 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 mmol, 0.121 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6β-bromo-4-acetamino-androsta-1,4-diene-3,17-dione | 90% yield | Br[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C(=C12)NC(=O)C)=O)C)=O | C21H26BrNO3
